US07084178B2
cis-2-[(4-Chlorobenzenesulfonyl)-(4-trifluoromethoxy-benzyl)-amino]-cyclohexanecarboxylic acid amide.
cis-2-(4-Chloro-benzenesulfonylamino)-cyclohexanecarboxylic acid amide (200 mg, 0.63 mmol), CsCO3 (250 mg, 0.76 mmol), and 1-bromomethyl-4-trifluoromethoxy-benzene (155 mg, 0.69 mmol) was stirred in acetonitrile (15 mL) at room temperature for 18 h. The reaction was then diluted with EtOAc (150 mL) and washed with H2O, brine, dried over Na2SO4 and concentrated to give a crude white wax. Further purification by flash chromatography (silica gel, 0.5%–1% MeOH/CHCl3) afforded the titled compound (205 mg) as a white solid in 67% yield: 1H NMR (DMSO-d6) δ 7.75 (d, 2 H, J=8.0 Hz), 7.59 (d, 2 H, J=8.0 Hz), 7.36 (m, 3 H), 7.21 (d, 2 H, J=8.0 Hz), 6.69 (s br, 1 H), 4.58 (AB2, 2 H, Δv=17, Jab=64 Hz), 3.89 (m, 1 H), 2.79 (s, 1 H), 2.44 (m, 1 H), 1.78 (m, 1 H), 1.66 (m, 2 H), 1.31 (m, 3 H), 0.98 (m, 1 H); MS m/e 491.03 (M+H)+.

reactant | cis-2-(4-Chloro-benzenesulfonylamino)-cyclohexanecarboxylic acid amide | 0.63 mmol, 200 mg | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1[C@@H](CCCC1)C(=O)N | C13H17ClN2O3S
reactant | 1-bromomethyl-4-trifluoromethoxy-benzene | 0.69 mmol, 155 mg | BrCC1=CC=C(C=C1)OC(F)(F)F | C8H6BrF3O
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | cis-2-[(4-Chlorobenzenesulfonyl)-(4-trifluoromethoxy-benzyl)-amino]-cyclohexanecarboxylic acid amide | 205 mg, 67% yield | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H]1[C@@H](CCCC1)C(=O)N)CC1=CC=C(C=C1)OC(F)(F)F | C21H22ClF3N2O4S
